US07956083B2
Description 11. 7-Chloro-4-(methyloxy)-1H-indole (D11)
To a solution of 4-chloro-3-nitroanisole (6.0 g, 32.0 mmol) in tetrahydrofuran (140 mL) at −40° C. was added vinylmagnesium bromide (1M in tetrahydrofuran, 112 mL, 112.0 mmol). The mixture was stirred at −40° C. for 1.5 hours and then quenched by the addition of saturated aqueous ammonium chloride solution (150 mL). The reaction mixture was allowed to warm to room temperature and then the product extracted into ethyl acetate (×2). The combined organic layers were dried over magnesium sulphate, filtered and concentrated at reduced pressure. The product was purified by silica gel chromatography eluting with 2-15% ethyl acetate in hexane to yield the title compound (D11), (1.67 g).

reactant | 4-chloro-3-nitroanisole | 32.0 mmol, 6.0 g | ClC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6ClNO3
reactant | vinylmagnesium bromide | 112.0 mmol, 1M, 112 mL | C(=C)[Mg]Br
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
product | 7-Chloro-4-(methyloxy)-1H-indole | 1.67 g | ClC=1C=CC(=C2C=CNC12)OC | C9H8ClNO
